US08754079B2
271.2 4-[4-Fluoro-2-(trans-4-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid [3-(2-oxo-pyrrolidin-1-yl)-propyl]-amide
Prepared analogously to 1.4 from 0.042 g 4-[4-fluoro-2-(trans-4-hydroxycyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and 0.015 g 1-(3-aminopropyl)-2-pyrrolidinone. The residue was purified by chromatography.

reactant | 4-[4-fluoro-2-(trans-4-hydroxycyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.042 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2CC[C@H](CC2)O | C20H20FN3O4S
reactant | 1-(3-aminopropyl)-2-pyrrolidinone | 0.015 g | NCCCN1C(CCC1)=O | C7H14N2O
product | 4-[4-Fluoro-2-(trans-4-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid [3-(2-oxo-pyrrolidin-1-yl)-propyl]-amide | O=C1N(CCC1)CCCNC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2CC[C@H](CC2)O)S1)C | C27H32FN5O4S
